US08486979B2
tert-butyl 3-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)phenylcarbamate
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 3-(tert-butoxycarbonylamino)benzoic acid (Aldrich). 1H NMR (300 MHz, CDCl3) δ 1.56 (s, 9 H), 6.71 (s, 1 H), 7.39-7.58 (m, 2 H), 7.68 (d, J=7.9 Hz, 1 H), 7.89 (d, J=9.1 Hz, 1 H), 8.24 (s, 1 H), 8.45 (d, J=7.9 Hz, 1 H), 8.77 (d, J=4.8 Hz, 1 H), 9.40 (s, 1 H) ppm; MS (DCI/NH3) m/z 339 (M+H)+, 356 (M+NH4)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 3-(tert-butoxycarbonylamino)benzoic acid | C(C)(C)(C)OC(=O)NC=1C=C(C(=O)O)C=CC1 | C12H15NO4
reactant | NH3 | N | H3N
product | tert-butyl 3-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)phenylcarbamate | N1=CC(=CC=C1)C1=NOC(=N1)C=1C=C(C=CC1)NC(OC(C)(C)C)=O | C18H18N4O3
